US04489003
3.19 g (10 mmol) of ethyl 7-chloro-5,6-dihydro-5-methyl-6-oxo-4H-imidazo[1,5-a][1,4]benzodiazepine-3-carboxylate, 70 mg of powdered potassium cyanide and 10 ml of cyclopentanol are stirred at 120° overnight, subsequently evaporated and the residue is chromatographed on silica gel while eluting with ethyl acetate. By recrystallization from ethyl acetate there is obtained cyclopentyl 7-chloro-5,6-dihydro-5-methyl-6-oxo-4H-imidazo[1,5-a][1,4]benzodiazepine-3-carboxylate of melting point 162°-163°.

reactant | ethyl 7-chloro-5,6-dihydro-5-methyl-6-oxo-4H-imidazo[1,5-a][1,4]benzodiazepine-3-carboxylate | 10 mmol, 3.19 g | ClC1=CC=CC2=C1C(N(CC=1N2C=NC1C(=O)OCC)C)=O | C15H14ClN3O3
reactant | potassium cyanide | 70 mg | [C-]#N.[K+]
reactant | cyclopentanol | 10 ml | C1(CCCC1)O | C5H10O
product | cyclopentyl 7-chloro-5,6-dihydro-5-methyl-6-oxo-4H-imidazo[1,5-a][1,4]benzodiazepine-3-carboxylate | ClC1=CC=CC2=C1C(N(CC=1N2C=NC1C(=O)OC1CCCC1)C)=O | C18H18ClN3O3
